US07179830B2
A mixture of 1.87 g of 3,4-diaminothiophene dihydrochloride, 60 ml of anhydrous tetrahydrofuran (THF) and 2.58 g of N-ethyl-N,N-diisopropylamine was stirred at room temperature for 30 minutes and then admixed with 1.5 g of 4-methyl-3-thienyl isothiocyanate. After stirring over approx. 18 hours, the solvent was distilled off, the residue admixed with water and extracted repeatedly with ethyl acetate. After the combined organic phases had been treated with activated carbon, they were dried over sodium sulfate and the solvent was once again distilled off. The N-(3-amino-4-thienyl)-N′-(4-methyl-3-thienyl)thiourea was obtained as an amorphous foamy solid.

reactant | 3,4-diaminothiophene dihydrochloride | 1.87 g | Cl.Cl.NC1=CSC=C1N
reactant | N-ethyl-N,N-diisopropylamine | 2.58 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-methyl-3-thienyl isothiocyanate | 1.5 g | CC=1C(=CSC1)N=C=S | C6H5NS2
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | N-(3-amino-4-thienyl)-N′-(4-methyl-3-thienyl)thiourea | NC1=CSC=C1NC(=S)NC1=CSC=C1C | C10H11N3S3
